US07250410B2
7,8-diethoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbf.
By replacing 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIaf) in example IIba by 7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (XXIIag) and proceeding in the same manner, the abovenamed product is obtained. Yield: 28%. M: 116–118° C. 1H-NMR (CDCl3, 200 MHz): d 1.40 (t, 3H, CH3), 1.56 (t, 3H, CH3), 3.42 (s, 3H, NCH3), 3.97 (q, 2H, OCH2), 4.21 (q, 2H, OCH2), 4.33 (AB system, ? d=0.98 JAB=10.5, 2H, CH2), 6.74 (s, 1H Ar), 6.81 (s, 1H Ar), 7.42–7.70 (m, 5H Ar).

reactant | 5-(4-bromophenyl)-7,8-dimethoxy-1,3-dihydro-2H-1,4-benzodiazepin-2-one | BrC1=CC=C(C=C1)C1=NCC(NC2=C1C=C(C(=C2)OC)OC)=O | C17H15BrN2O3
reactant | 7,8-diethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | C(C)OC=1C(=CC2=C(C(=NCC(N2)=O)C2=CC=CC=C2)C1)OCC | C19H20N2O3
product | 7,8-diethoxy-1-methyl-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 28% | C(C)OC=1C(=CC2=C(C(=NCC(N2C)=O)C2=CC=CC=C2)C1)OCC | C20H22N2O3
